US08076486B2
(2-Fluoro-4-iodo-phenyl)-[5-(2-fluoro-phenyl)-4-(5-trimethylsilanyl-1H-[1,2,3]triazol-4-yl)-pyridin-3-yl]-amine
n-Butyllithium (28 μL, 2.5 M in THF, 0.07 mmol) was added to a solution of (trimethylsilyl)diazomethane (35 μL, 2.0 M in THF, 0.07 mmol) in THF (1 mL) at 0° C., and stirred for 20 minutes. 3-(2-Fluoro-4-iodo-phenylamino)-5-(2-fluoro-phenyl)-isonicotinonitrile (20 mg, 0.05 mmol) was added, and the resulting solution was stirred overnight at room temperature. The reaction solution was diluted with EtOAc and satd. NH4Cl, and filtered through an Extrelut column. The column was washed with EtOAc, and the filtrate was concentrated. The crude product was purified via Biotage eluting with a gradient of 0 to 75% EtOAc in hexanes to afford the desired product (10 mg, 40%). LC-MS (M+H=548, obsd.=548).

reactant | n-Butyllithium | 0.07 mmol, 2.5 M, 28 μL | C(CCC)[Li]
reactant | (trimethylsilyl)diazomethane | 0.07 mmol, 2.0 M, 35 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-(2-Fluoro-4-iodo-phenylamino)-5-(2-fluoro-phenyl)-isonicotinonitrile | 0.05 mmol, 20 mg | FC1=C(C=CC(=C1)I)NC1=C(C#N)C(=CN=C1)C1=C(C=CC=C1)F | C18H10F2IN3
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Fluoro-4-iodo-phenyl)-[5-(2-fluoro-phenyl)-4-(5-trimethylsilanyl-1H-[1,2,3]triazol-4-yl)-pyridin-3-yl]-amine | 10 mg, 40% | FC1=C(C=CC(=C1)I)NC=1C=NC=C(C1C=1N=NNC1[Si](C)(C)C)C1=C(C=CC=C1)F | C22H20F2IN5Si
